US05965730
3,4-Dimethoxy-6-(2-bromoisonicotinoyl)benzoic acid (15.2 g) and hydrazine monohydrate (15 ml) are added to ethanol (30 ml), and the mixture is heated under reflux for one hour. The reaction mixture is cooled with ice, and the precipitates are collected by filtration to give 2-bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine (14.1 g).

reactant | 3,4-Dimethoxy-6-(2-bromoisonicotinoyl)benzoic acid | 15.2 g | COC=1C=C(C(=O)O)C(=CC1OC)C(C1=CC(=NC=C1)Br)=O | C15H12BrNO5
reactant | hydrazine monohydrate | 15 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine | 14.1 g | BrC1=NC=CC(=C1)C1=NNC(C2=CC(=C(C=C12)OC)OC)=O | C15H12BrN3O3
